US07763731B2
3-(4-Chloro-2-nitro-phenoxy)-benzoic acid
To a solution of DMF (50 mL) was added 1-bromo-2-nitro-4-chloro-benzene (10.0 g, 42.2 mmol), 3-hydxoxybenzoic acid (5.8 g, 42.0 mmol), and K2CO3 (17.5 g, 0.13 mol). The solution was heated to 85° C. and stirred overnight. The reaction was poured into distill water and extracted with ethyl acetate. The combined organic layers were washed with distilled water, brine, and dried over Na2SO4, filtered and concentrated under vacuum giving a crude oil. This oil was purified by silica gel column chromatography eluting with CH2Cl2/MeOH (90:10) to give the title compound (7.4 gm, 60

reactant | 1-bromo-2-nitro-4-chloro-benzene | 42.2 mmol, 10.0 g | BrC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3BrClNO2
reactant | K2CO3 | 0.13 mol, 17.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 3-(4-Chloro-2-nitro-phenoxy)-benzoic acid | ClC1=CC(=C(OC=2C=C(C(=O)O)C=CC2)C=C1)[N+](=O)[O-] | C13H8ClNO5
